US08541588B2
2,4-difluoro-N-(thiazol-2-yl)benzenesulfonamide
To a slurry of 2-aminothiazole (15.08 g, 0.1506 mol) in methylene chloride (100 mL) and pyridine (24 mL, 0.30 mol) was added dropwise over 20 minutes a solution of 2,4-difluorobenzenesulfonyl chloride (10 mL, 0.07 mol) in 10 mL of methylene chloride. After stirring at room temperature for 48 hours the reaction was concentrated and purified by flash column chromatography eluting with hexane/ethyl acetate. LCMS Rt=1.21 minutes MS m/z 277 [MH]+

reactant | 2-aminothiazole | 0.1506 mol, 15.08 g | NC=1SC=CN1 | C3H4N2S
reactant | pyridine | 0.30 mol, 24 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,4-difluorobenzenesulfonyl chloride | 0.07 mol, 10 mL | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4-difluoro-N-(thiazol-2-yl)benzenesulfonamide | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1SC=CN1 | C9H6F2N2O2S2
